* source NEW
R_R10         N02824 N02071  1.2k  
R_R11         0 N02870  2.2k  
R_R12         N02071 N02870  3.3k  
V_V2         N02824 0 8
I_I2         0 N02870 DC 5m  
R_R9         0 N02071  4.7k  
