* source DC_RL
I_I1         0 N00564 DC 4m  
V_V1         N000250 N00600 12
R_R1         0 N00564  2.2k  
R_R2         N000250 0  8.2k  
L_L1         N00564 N00600  200m  
